US07951961B2
(E)-Methyl-2-nitro-3-(2,4,6-trimethoxyphenyl)acrylate
2,4,6-trimethoxybenzaldehyde (20.75 g, 0.105 mol) was dissolved in dichloromethane (300 mL) and to this solution magnesium sulphate (15 g, 0.124 mol), ammonium acetate (10 g, 0.129 mol) and methyl nitroacetate (12.60 g, 0.105 mol) were added and stirred at room temperature for 2 hours. At the end of two hours, water (300 mL) was added to the reaction mass, the organic layer was separated and the aqueous layer extracted with dichloromethane (2×100 mL). The organic layers were combined and concentrated under reduced pressure to give a solid, which was crystallized from methanol (100 mL).

reactant | 2,4,6-trimethoxybenzaldehyde | 0.105 mol, 20.75 g | COC1=C(C=O)C(=CC(=C1)OC)OC | C10H12O4
reactant | magnesium sulphate | 0.124 mol, 15 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | ammonium acetate | 0.129 mol, 10 g | C(C)(=O)[O-].[NH4+]
reactant | methyl nitroacetate | 0.105 mol, 12.60 g | [N+](=O)([O-])CC(=O)OC | C3H5NO4
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | water | 300 mL | O | H2O
product | (E)-Methyl-2-nitro-3-(2,4,6-trimethoxyphenyl)acrylate | COC(/C(=C\C1=C(C=C(C=C1OC)OC)OC)/[N+](=O)[O-])=O | C13H15NO7
